US05047411
A mixture of 4-nitrobenzaldehyde (30.2 g) and 2,4-lutidine (64.2 g) in acetic anhydride (100 ml) was refluxed for 11 hours under stirring. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of ethyl acetate and water. The resultant solution was acidified to pH 0.8 with conc. hydrochloric acid and the mixture was stirred at ambient temperature for one hour. The precipitate was collected by filtration. The residue was suspended in a mixture of ethyl acetate, tetrahydrofuran and water and the resultant mixture was adjusted to pH 8.0 with aqueous 20% potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel. The fraction eluted with a mixture of ethyl acetate and diisopropyl ether (4:6 V/V) was collected and the solvent was evaporated in vacuo to give 4-methyl-2-[2-(4-nitrophenyl)vinyl]pyridine (22.1 g).

reactant | 4-nitrobenzaldehyde | 30.2 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2,4-lutidine | 64.2 g | N1=C(C=C(C=C1)C)C | C7H9N
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-methyl-2-[2-(4-nitrophenyl)vinyl]pyridine | 22.1 g | CC1=CC(=NC=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H12N2O2
